US05569653
(J) 1-[4-[3-[4-(1H-Indazol-3-yl)-1-piperazinyl]propoxy]-3-methoxyphenyl]ethanone
A mixture of 3-(1-piperazinyl)-1H-indazole (4.0 g, 20 mmol), K2CO3 (3.0 g, 22 mmol), 1-[4-(3-chloropropoxy)-3-methoxyphenyl]ethanone (5.3 g, 22 mmol), a few crystals of KI, and dimethylformamide (60 ml) was stirred at 90 C. for 5 hours. The reaction was poured into water, and the aqueous mixture was extracted with ethyl acetate. The extract was washed (brine), dried (MgSO4), and the solvent was concentrated to afford a white solid, which was triturated with diethyl ether and collected to yield 7.0 g of product. Two recrystallizations from absolute ethyl alcohol yielded 5.3 g (64%) of analytically pure 1-[4-[3-[4-(1H-indazol-3-yl)-1-piperazinyl]propoxy]-3-ethanone, m.p.=155°-157° C.

reactant | 3-(1-piperazinyl)-1H-indazole | 20 mmol, 4.0 g | N1(CCNCC1)C1=NNC2=CC=CC=C12 | C11H14N4
reactant | K2CO3 | 22 mmol, 3.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-[4-(3-chloropropoxy)-3-methoxyphenyl]ethanone | 22 mmol, 5.3 g | ClCCCOC1=C(C=C(C=C1)C(C)=O)OC | C12H15ClO3
reactant | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-[4-[3-[4-(1H-Indazol-3-yl)-1-piperazinyl]propoxy]-3-methoxyphenyl]ethanone | 7.0 g | N1N=C(C2=CC=CC=C12)N1CCN(CC1)CCCOC1=C(C=C(C=C1)C(C)=O)OC | C23H28N4O3
